US07956083B2
1-(2,3-difluoro-4-hydroxyphenyl)-1H-indol-4-ol (E13)
1-{2,3-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-[(phenylmethyl)oxy]-1H-indole (D23) (141 mg, 0.319 mmoL) was dissolved in ethyl acetate (10 mL) and was hydrogenated at room temperature and atmospheric pressure in the presence of 10% palladium on charcoal (50% wet) (70 mg). After 22 hours the mixture was filtered and concentrated in vacuo. The crude product was purified by MDAP and the isolated material was partitioned between ethyl acetate and sat. NH4Cl. The phases were separated and the aqueous phase extracted with more ethyl acetate. The combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated to afford the title compound (E13), (45 mg).

reactant | 1-{2,3-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-[(phenylmethyl)oxy]-1H-indole | 141 mg | FC1=C(C=CC(=C1F)OCC1=CC=CC=C1)N1C=CC2=C(C=CC=C12)OCC1=CC=CC=C1 | C28H21F2NO2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 70 mg | [Pd] | Pd
product | 1-(2,3-difluoro-4-hydroxyphenyl)-1H-indol-4-ol | 45 mg | FC1=C(C=CC(=C1F)O)N1C=CC=2C(=CC=CC12)O | C14H9F2NO2
